US06531477B1
1-(2,4,6-Trichlorophenyl)-3-isopropyl-6-(3-aminoindazol-5-ylmethyl)pyrazolo[3,4-d]pyrimidin-4-one
To a stirred solution of 139 mg (0.40 mmol) of 5-amino-3-isopropyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide in 3 mL of absolute ethanol was added 329 mg (1.50 mmol) of ethyl 3-aminoindazol-5-ylacetate followed by 1.13 mL (3.0 mmol) of 2.66 M sodium ethoxide in ethanol. The solution was stirred 16 h at reflux, and the heating mantle was then removed. The reaction was treated with 8 mL of 10% aq. HOAc, poured into water, and extracted with EtOAc. The organic extract was washed with brine, dried (MgSO4), concentrated under reduced pressure, and chromatographed on silica gel (gradient elution with 5% to 10% MeOH—CH2Cl2) to give, after removal of solvent, 123 mg (61%) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(3-aminoindazol-5-ylmethyl)pyrazolo[3,4-d]pyrimidin-4-one as a white, amorphous solid. Mass spec.: 502.0712 (M+H)+.

reactant | 5-amino-3-isopropyl-1-(2,4,6-trichlorophenyl)pyrazole-4-carboxamide | 0.40 mmol, 139 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C(C)C)C(=O)N | C13H13Cl3N4O
reactant | ethyl 3-aminoindazol-5-ylacetate | 1.50 mmol, 329 mg | NC1=NNC2=CC=C(C=C12)CC(=O)OCC | C11H13N3O2
reactant | sodium ethoxide | 3.0 mmol, 2.66 M, 1.13 mL | [O-]CC.[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(2,4,6-Trichlorophenyl)-3-isopropyl-6-(3-aminoindazol-5-ylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC=2C=C1C(=NNC1=CC2)N)C(C)C | C22H18Cl3N7O
